US07402598B2
(iv) 8-(Benzyloxy)-5-((1R)-2-{benzyl[6-(4-phenylbutoxy)hexyl]amino}-1-hydroxyethyl)quinolin-2(1H)-one
A solution of 8-(benzyloxy)-5-[(1R)-2-{benzyl[6-(4-phenylbutoxy)hexyl]amino}-1-(tetrahydro-2H-pyran-2-yloxy)ethyl]quinolin-2(1H)-one (80 mg) in acetic acid (4 ml), THF (2 ml) and water (1 ml) was heated at 80° C. for 17 h prior to concentration in vacuo. The residue was purified by chromatography (Hexane-EtOAc 2:1, biotage) to give the title compound (33.5 mg).

reactant | 8-(benzyloxy)-5-[(1R)-2-{benzyl[6-(4-phenylbutoxy)hexyl]amino}-1-(tetrahydro-2H-pyran-2-yloxy)ethyl]quinolin-2(1H)-one | 80 mg | C(C1=CC=CC=C1)OC=1C=CC(=C2C=CC(NC12)=O)[C@H](CN(CCCCCCOCCCCC1=CC=CC=C1)CC1=CC=CC=C1)OC1OCCCC1 | C46H56N2O5
solvent | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | water | 1 ml | O | H2O
product | 8-(Benzyloxy)-5-((1R)-2-{benzyl[6-(4-phenylbutoxy)hexyl]amino}-1-hydroxyethyl)quinolin-2(1H)-one | 33.5 mg | C(C1=CC=CC=C1)OC=1C=CC(=C2C=CC(NC12)=O)[C@H](CN(CCCCCCOCCCCC1=CC=CC=C1)CC1=CC=CC=C1)O | C41H48N2O4
